US04472578
A mixture of 640 mg ethyl 5-hydroxybenzo[a]phenazine-6-carboxylate, 6 ml of acetic anhydride and two drops of pyridine was stirred overnight and poured into water. The precipitated solid was collected by filtration and recrystallized from ethanol to give 600 mg (91.1% yield) of ethyl 5-acetoxybenzo[a]phenazine-6-carboxylate as orange needles, m.p. 195°-196° C., Anal. Calcd. (%) for C21H16N2O4 : C, 69.99; H, 4.48; N, 7.77; Found: C, 70.12; H, 4.45; N, 7.63

reactant | ethyl 5-hydroxybenzo[a]phenazine-6-carboxylate | 640 mg | OC1=C2C(=C3N=C4C=CC=CC4=NC3=C1C(=O)OCC)C=CC=C2 | C19H14N2O3
reactant | acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | pyridine | two drops | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | ethyl 5-acetoxybenzo[a]phenazine-6-carboxylate | 600 mg, 91.1% yield | C(C)(=O)OC1=C2C(=C3N=C4C=CC=CC4=NC3=C1C(=O)OCC)C=CC=C2 | C21H16N2O4
